US05753652
b) N-Boc-(p-fluorophenylalaninol)
At from -5° C. to -10° C. 9.66 ml (69 mmol) of triethylamine are added to a solution of 17.9 g (63 mmol) of N-Boc-(p-fluorophenylalanine) in 73 ml of abs. THF, and a solution of 9.05 ml (69 mmol) of chloroformic acid isobutyl ester in 44 ml of abs. THF is added dropwise thereto. After stirring for 0.5 h at RT, the resulting precipitate is filtered off with suction. The filtrate is added dropwise, with cooling, to 4.77 g (126 mmol) of sodium borohydride in 28 ml of water. The mixture is stirred for 4 h at RT and acidified with 10% citric acid, the THF is partially removed by evaporation using a RE and the residue is partitioned between 3 portions of ethyl acetate and 2 portions of 2N sodium hydroxide solution, water, saturated sodium hydrogen carbonate solution and brine. The organic phases are dried with sodium sulfate, concentrated by evaporation, dissolved in a small amount of methylene chloride and crystallised by the addition of hexane to yield the title compound: TLC Rf (N)=0.36; tRet (I)=16.8 min; 1H-NMR (200 MHz, CD3OD): 7.24 (dd, 8 and 5 Hz, 2H), 6.98 (t, 8 Hz, 2H), 3.73 (m, 1H), 3.47 (d, 5 Hz, 2H), 2.88 (dd, 13 and 6 Hz, 1H), 2.62 (dd, 13 and 8 Hz, 1H), 1.36 (s, 9H).

reactant | triethylamine | 69 mmol, 9.66 ml | C(C)N(CC)CC | C6H15N
reactant | N-Boc-(p-fluorophenylalanine) | 63 mmol, 17.9 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)F)C(=O)O | C14H18FNO4
reactant | chloroformic acid isobutyl ester | 69 mmol, 9.05 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | sodium borohydride | 126 mmol, 4.77 g | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 28 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | N-Boc-(p-fluorophenylalaninol) | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)F)CO | C14H20FNO3
